US06495576B2
N-[1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethyl-3-phenylpropyl]nicotinamide
The product from Example 18A, nicotinamide, benzotriazole, and p-toluenesulfonic acid in xylene were processed as described in Example 18B to provide the title compound.

reactant | nicotinamide | C(C1=CN=CC=C1)(=O)N | C6H6N2O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-[1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethyl-3-phenylpropyl]nicotinamide | N1(N=NC2=C1C=CC=C2)C(C(CC2=CC=CC=C2)(C)C)NC(C2=CN=CC=C2)=O | C23H23N5O
